US07375099B2
2-tert-Butyl-N-(3,5-difluoro-benzyl)-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
The title compound, MS: m/e=506.3 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and N-(3,5-difluoro-benzyl)-2-tert-butyl-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | N-(3,5-difluoro-benzyl)-2-tert-butyl-malonamic acid | FC=1C=C(CNC(C(C(=O)O)C(C)(C)C)=O)C=C(C1)F | C14H17F2NO3
product | 2-tert-Butyl-N-(3,5-difluoro-benzyl)-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | C(C)(C)(C)C(C(=O)NCC1=CC(=CC(=C1)F)F)C(=O)NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C29H29F2N3O3
